US07981903B2
A solution of 3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1 H-indole (2.38 g, 10.71 mmol), Hunig's base (9.33 mL, 53.5 mmol) and bromo-acetylchloride (1.159 mL, 13.92 mmol) in tetrahydrofuran (100 mL) was maintained at 0° C. for 2 hours. Dimethylamine (2.0M in THF, 42.8 mL, 86 mmol) was added to the solution and the reaction was warmed to room temperature and maintained for 5 hours. The reaction was poured into saturated sodium bicarbonate, the organic layer was dried over sodium sulfate, filtered, and purified by column chromatography to afford {2-[3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}dimethylamine (2.14 g, 65.0% yield) as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.44 (s, 1 H), 7.35 (s, 1 H), 3.97 (s, 2 H), 3.92 (s, 3 H), 3.21 (s, 2 H), 2.26 (s, 6H), 1.34 (s, 6 H).

reactant | 3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1 H-indole | 10.71 mmol, 2.38 g | CC1(CNC2=CC(=C(C=C12)OC)[N+](=O)[O-])C | C11H14N2O3
reactant | Hunig's base | 53.5 mmol, 9.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bromo-acetylchloride | 13.92 mmol, 1.159 mL | BrCC(=O)Cl | C2H2BrClO
reactant | Dimethylamine | 86 mmol, 2.0M, 42.8 mL | CNC | C2H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | {2-[3,3-dimethyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}dimethylamine | 2.14 g, 65.0% yield | CC1(CN(C2=CC(=C(C=C12)OC)[N+](=O)[O-])C(CN(C)C)=O)C | C15H21N3O4
